US05079260
4-Methylfluorene
A solution of 9-hydroxyfluoren-4-methanol (2.6 g, 12.2 mmol) in 1.1 EtOAc:AcOH was charged with catalytic amount of 10% palladium on charcoal. The mixture was treated with hydrogen under 1600 psi, at room temperature for three days. The catalyst was removed and the solvent was evaporated under reduced pressure. Recrystalyzation from MeOH afforded 1.7 g (77.0%) of the product as a light yellow solid.

reactant | 9-hydroxyfluoren-4-methanol | 12.2 mmol, 2.6 g | OC1C2=CC=CC=C2C=2C(=CC=CC12)CO | C14H12O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | AcOH | CC(=O)O | C2H4O2
product | 4-Methylfluorene | 1.7 g, 77.0% | CC1=CC=CC=2CC3=CC=CC=C3C12 | C14H12
